US20010003772A1
Synthesis of 3-[tris(trimethylsilyloxy)silyl]propyl methacrylate/t-butyl methacrylate/5-oxo-4-oxatricyclo[4.2.1.03,7]nonan-2-yl Methacrylate (2:5:3) Copolymer
A copolymer was synthesized as in Polymer Synthesis Example 1 except that 3-[tris(trimethylsilyloxy)silyl]propyl methacrylate and t-butyl methacrylate were used instead of 1,4,4-trimethyl-4-silacyclohexyl methacrylate. The polymer was confirmed by the light scattering method to have a weight average molecular weight of 13,000 g/mol and by the GPC elution curve to have a dispersity (Mw/Mn) of 1.78. By 1H-NMR analysis, the copolymer was found to contain the components in a ratio of approximately 2:5:3.

reactant | 3-[tris(trimethylsilyloxy)silyl]propyl methacrylate | C(C(=C)C)(=O)OCCC[Si](O[Si](C)(C)C)(O[Si](C)(C)C)O[Si](C)(C)C | C16H38O5Si4
reactant | t-butyl methacrylate | C(C(=C)C)(=O)OC(C)(C)C | C8H14O2
reactant | 1,4,4-trimethyl-4-silacyclohexyl methacrylate | C(C(=C)C)(=O)OC1(CC[Si](CC1)(C)C)C | C12H22O2Si
product | 3-[tris(trimethylsilyloxy)silyl]propyl methacrylate t-butyl methacrylate 5-oxo-4-oxatricyclo[4.2.1.03,7]nonan-2-yl Methacrylate | C(C(=C)C)(=O)OCCC[Si](O[Si](C)(C)C)(O[Si](C)(C)C)O[Si](C)(C)C.C(C(=C)C)(=O)OC(C)(C)C.C(C(=C)C)(=O)OC1C2CC3C(C(OC13)=O)C2 | InChI=1S/C16H38O5Si4.C12H14O4.C8H14O2/c1-15(2)16(17)18-13-12-14-25(19-22(3,4)5,20-23(6,7)8)21-24(9,10)11;1-5(2)11(13)15-9-6-3-7-8(4-6)12(14)16-10(7)9;1-6(2)7(9)10-8(3,4)5/h1,12-14H2,2-11H3;6-10H,1,3-4H2,2H3;1H2,2-5H3
